* C:\Users\mihir\eSim-Workspace\aprxcmprsr63\aprxcmprsr63.cir



.subckt aprxcmprsr63 vdd p0 p1 p2 p3 p4 w1 w2 w3

.include 2_or_gate.sub
.include and_gate.sub
.include 3_or.sub
X4  vdd p0 p1 Net-_X2-Pad2_ and_gate		
X5  vdd p2 p3 Net-_X3-Pad2_ and_gate		
*U1  vdd p0 p1 p2 p3 p4 w3 w1 w2 PORT		
X1  vdd p0 p1 w3 2_or_gate		
X2  vdd Net-_X2-Pad2_ p2 p3 w1 3_or		
X3  vdd Net-_X3-Pad2_ p4 w2 2_or_gate	

.ends aprxcmprsr63



