.title kicad schematic

* u2 awvalid_wvalid bready_rready araddr arvalid bready_rready net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ adc_bridge_5
* u1 clk reset awaddr awvalid_wvalid wdata_3_1 wdata_2_0 wdata_3_1 wdata_2_0 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
v4 awvalid_wvalid gnd pwl(0 0 15n 0 16n 5 25n 5 26n 0 35n 0 36n 5 45n 5 46n 0)
v3 reset gnd pwl(0 0 10n 0 11n 5)
v2 bready_rready gnd  dc 5
v1 clk gnd pulse(0 5 0 1n 1n 4n 10n)
v5 arvalid gnd pwl(0 0 55n 0 56n 5 65n 5 66n 0 75n 0 76n 5 85n 5 86n 0)
v8 wdata_3_1 gnd pwl(0 0 15n 0 16n 5 25n 5 26n 0)
v9 wdata_2_0 gnd pwl(0 0 35n 0 36n 5 45n 5 46n 0)
v7 araddr gnd pwl(0 0 75n 0 76n 5)
v6 awaddr gnd pwl(0 0 35n 0 36n 5)
* u3 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ memory_interface
* u4 net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ awready wready bresp1 bresp0 bvalid arready rdata3 rdata2 dac_bridge_8
* u5 net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ rdata1 rdata0 rresp1 rresp0 rvalid dac_bridge_5
a1 [awvalid_wvalid bready_rready araddr arvalid bready_rready ] [net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
a2 [clk reset awaddr awvalid_wvalid wdata_3_1 wdata_2_0 wdata_3_1 wdata_2_0 ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a3 [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [net-_u2-pad6_ ] [net-_u2-pad7_ ] [net-_u2-pad8_ ] [net-_u2-pad9_ ] [net-_u2-pad10_ ] [net-_u3-pad14_ ] [net-_u3-pad15_ ] [net-_u3-pad16_ net-_u3-pad17_ ] [net-_u3-pad18_ ] [net-_u3-pad19_ ] [net-_u3-pad20_ net-_u3-pad21_ net-_u3-pad22_ net-_u3-pad23_ ] [net-_u3-pad24_ net-_u3-pad25_ ] [net-_u3-pad26_ ] u3
a4 [net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u3-pad17_ net-_u3-pad18_ net-_u3-pad19_ net-_u3-pad20_ net-_u3-pad21_ ] [awready wready bresp1 bresp0 bvalid arready rdata3 rdata2 ] u4
a5 [net-_u3-pad22_ net-_u3-pad23_ net-_u3-pad24_ net-_u3-pad25_ net-_u3-pad26_ ] [rdata1 rdata0 rresp1 rresp0 rvalid ] u5
* Schematic Name:                             adc_bridge_5, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             memory_interface, Ngspice Name: memory_interface
.model u3 memory_interface(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-06 100e-09 0e-09

* Control Statements 
.control
run
* -----------------------------------------
* AXI Memory Interface Waveform Script
* -----------------------------------------

* 1. Clock and Reset
let v_clk       = v(clk)
let v_rst       = v(reset) + 6

* 2. Write Address & Data Channel
let v_awaddr    = v(awaddr) + 12
let v_awval     = v(awvalid_wvalid) + 18
let v_awrdy     = v(awready) + 24
let v_wd31      = v(wdata_3_1) + 30
let v_wd20      = v(wdata_2_0) + 36
let v_wrdy      = v(wready) + 42

* 3. Write Response
let v_bval      = v(bvalid) + 48

* 4. Read Address Channel
let v_araddr    = v(araddr) + 54
let v_arval     = v(arvalid) + 60
let v_arrdy     = v(arready) + 66

* 5. Read Data Channel
let v_rd3       = v(rdata3) + 72
let v_rd2       = v(rdata2) + 78
let v_rd1       = v(rdata1) + 84
let v_rd0       = v(rdata0) + 90
let v_rval      = v(rvalid) + 96

* Plot command
plot v_clk v_rst v_awaddr v_awval v_awrdy v_wd31 v_wd20 v_wrdy v_bval v_araddr v_arval v_arrdy v_rd3 v_rd2 v_rd1 v_rd0 v_rval
.endc
.end
