* C:\Users\mihir\eSim-Workspace\bbconvtr21\bbconvtr21.cir

.subckt bbconvtr21 GND in SQpulse out

D2  Net-_D2-Pad1_ GND sky130_fd_pr__diode_pd2nw_05v5		
D1  out Net-_D1-Pad2_ sky130_fd_pr__diode_pd2nw_05v5		
C1  out GND 11e-07		
L2  Net-_D2-Pad1_ out 35e-04		
L1  Net-_D1-Pad2_ GND 35e-04	
R1  out GND 50		
xM1  in SQpulse Net-_D1-Pad2_ Net-_D1-Pad2_ sky130_fd_pr__pfet_01v8 w=1 l=.5	
	
	
.ends bbconvtr21
