.title kicad schematic

* u1 a3 a2 a1 a0 s1 s0 net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ adc_bridge_6
v6 a3 gnd pulse(0 3.3 0 1n 1n 40n 80n)
v5 a2 gnd pulse(0 3.3 0 1n 1n 20n 40n)
* u5 y2 plot_v1
* u6 y1 plot_v1
* u4 y3 plot_v1
* u2 net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ barrel_shifter
* u3 net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ y3 y2 y1 y0 dac_bridge_4
* u7 y0 plot_v1
v3 a0 gnd pulse(0 3.3 0 1n 1n 5n 10n)
v2 s1 gnd pulse(0 3.3 0 1n 1n 160n 320n)
v1 s0 gnd pulse(0 3.3 0 1n 1n 80n 160n)
v4 a1 gnd pulse(0 3.3 0 1n 1n 10n 20n)
a1 [a3 a2 a1 a0 s1 s0 ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a2 [net-_u1-pad7_ ] [net-_u1-pad8_ ] [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u2-pad7_ ] [net-_u2-pad8_ ] [net-_u2-pad9_ ] [net-_u2-pad10_ ] u2
a3 [net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [y3 y2 y1 y0 ] u3
* Schematic Name:                             adc_bridge_6, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             barrel_shifter, Ngspice Name: barrel_shifter
.model u2 barrel_shifter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 300e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y2)
plot v(y1)
plot v(y3)
plot v(y0)
.endc
.end
