* c:\users\yamin\esim-workspace\clock_gating_controller\clock_gating_controller.cir

* u8  net-_u8-pad1_ net-_u10-pad2_ net-_u11-pad2_ net-_u12-pad2_ net-_u13-pad2_ net-_u14-pad2_ net-_u15-pad2_ net-_u16-pad1_ net-_u17-pad1_ net-_u18-pad1_ net-_u19-pad1_ clock_gating_controller_ip
* u9  clk net-_u8-pad1_ adc_bridge_1
* u10  rst_n net-_u10-pad2_ adc_bridge_1
* u11  enable3 net-_u11-pad2_ adc_bridge_1
* u12  enable2 net-_u12-pad2_ adc_bridge_1
* u13  enable1 net-_u13-pad2_ adc_bridge_1
* u14  enable0 net-_u14-pad2_ adc_bridge_1
* u15  test_mode net-_u15-pad2_ adc_bridge_1
* u16  net-_u16-pad1_ gated_clk3 dac_bridge_1
* u17  net-_u17-pad1_ gated_clk2 dac_bridge_1
* u18  net-_u18-pad1_ gated_clk1 dac_bridge_1
* u19  net-_u19-pad1_ gated_clk0 dac_bridge_1
v1  clk gnd pulse(0 5 0.25 0 0 0.25 0.5)
v2  rst_n gnd pulse(0 5 0.25 0 0 1.75 3.5)
v3  enable3 gnd pulse(0 5 0.5 0 0 0.5 1)
v4  enable2 gnd pulse(0 5 1 0 0 1 2)
v5  enable1 gnd pulse(5 0 1 0 0 1 2)
v6  enable0 gnd pulse(0 5 1 0 0 1 2)
* u20  gated_clk3 plot_v1
* u21  gated_clk2 plot_v1
* u22  gated_clk1 plot_v1
* u23  gated_clk0 plot_v1
v7  ? gnd pulse(0 5 0.5 0 0 0.5 1)
* u2  rst_n plot_v1
* u3  enable3 plot_v1
* u4  enable2 plot_v1
* u5  enable1 plot_v1
* u6  enable0 plot_v1
* u7  test_mode plot_v1
* u1  clk plot_v1
v8 vcc gnd  dc 5
a1 [net-_u8-pad1_ ] [net-_u10-pad2_ ] [net-_u11-pad2_ net-_u12-pad2_ net-_u13-pad2_ net-_u14-pad2_ ] [net-_u15-pad2_ ] [net-_u16-pad1_ net-_u17-pad1_ net-_u18-pad1_ net-_u19-pad1_ ] u8
a2 [clk ] [net-_u8-pad1_ ] u9
a3 [rst_n ] [net-_u10-pad2_ ] u10
a4 [enable3 ] [net-_u11-pad2_ ] u11
a5 [enable2 ] [net-_u12-pad2_ ] u12
a6 [enable1 ] [net-_u13-pad2_ ] u13
a7 [enable0 ] [net-_u14-pad2_ ] u14
a8 [test_mode ] [net-_u15-pad2_ ] u15
a9 [net-_u16-pad1_ ] [gated_clk3 ] u16
a10 [net-_u17-pad1_ ] [gated_clk2 ] u17
a11 [net-_u18-pad1_ ] [gated_clk1 ] u18
a12 [net-_u19-pad1_ ] [gated_clk0 ] u19
* Schematic Name:                             clock_gating_controller_ip, NgSpice Name: clock_gating_controller_ip
.model u8 clock_gating_controller_ip(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u19 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.001e-00 2e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(gated_clk3)
plot v(gated_clk2)
plot v(gated_clk1)
plot v(gated_clk0)
plot v(rst_n)
plot v(enable3)
plot v(enable2)
plot v(enable1)
plot v(enable0)
plot v(test_mode)
plot v(clk)

set xbrushwidth = 3
 plot v(gated_clk0)+20 v(gated_clk1)+40 v(gated_clk2)+60 v(gated_clk3)+ 80 v(test_mode)+ 100 v(enable0)+ 120  v(enable1)+ 140 v(enable2)+ 160 v(enable3)+ 180 v(rst_n)+ 200 v(clk) + 220

.endc
.end
