* c:\users\vamsi\esim-workspace\clock_divider_testing\clock_divider_testing.cir

.include clock_freq_divider_ip.sub
x1 clk0 reset0 vcc gnd clk_10 clock_freq_divider_ip
v1  clk0 gnd pulse(0 5 0 0 0 0.01 0.02)
v2  reset0 gnd pulse(5 0 0 0 0 0.3 1)
* u3  clk_10 plot_v1
* u2  reset0 plot_v1
* u1  clk0 plot_v1
.tran 0.0001e-00 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth =3
plot v(clk0) + 6 v(reset0) + 12 v(clk_10)
.endc
.end
