* c:\fossee\esim\library\subcircuitlibrary\clock_freq_divider_ip\clock_freq_divider_ip.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ clock_freq_divider_ip
* u4  net-_u1-pad3_ net-_u2-pad5_ dac_bridge_1
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u2  net-_u2-pad1_ net-_u2-pad2_ ? ? net-_u2-pad5_ port
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a2 [net-_u1-pad3_ ] [net-_u2-pad5_ ] u4
a3 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
* Schematic Name:                             clock_freq_divider_ip, NgSpice Name: clock_freq_divider_ip
.model u1 clock_freq_divider_ip(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
